US08912186B2
By a procedure similar to that of example 1.4, starting from commercial 3,4-diaminobenzonitrile and 3-(4-chlorophenyl)glutaric anhydride, 3-(4-chlorophenyl)-4-(5-cyano-2-benzimidazolyl)-butanoic acid•HCl was obtained as light beige solid.

reactant | 3,4-diaminobenzonitrile | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | 3-(4-chlorophenyl)glutaric anhydride | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
product | 3-(4-chlorophenyl)-4-(5-cyano-2-benzimidazolyl)-butanoic acid•HCl | ClC1=CC=C(C=C1)C(CC(=O)O)CC=1NC2=C(N1)C=CC(=C2)C#N.Cl | InChI=1S/C18H14ClN3O2.ClH/c19-14-4-2-12(3-5-14)13(9-18(23)24)8-17-21-15-6-1-11(10-20)7-16(15)22-17;/h1-7,13H,8-9H2,(H,21,22)(H,23,24);1H
